US08202868B2
c.3.3: (S)-3-[4-(2-tert-Butyl-6-cyclobutyl-pyrimidin-4-yl)piperazin-1-yl]-2-methyl-propan-1-ol
5.64 g of crude (S)-acetic acid 3-[4-(2-tert-butyl-6-cyclobutyl-pyrimidin-4-yl)-piperazin-1-yl]-2-methyl-propyl ester (asserted 14.1 mmol) were stirred in 26.6 ml of ethanol. A solution of 2.83 g of sodium hydroxide in 6 ml of water was added and the reaction was heated at 60-70° C. for 5 h. After cooling to room temperature, 50 ml of water and 50 ml of dichloromethane were added. The dichloromethane layer was separated and the aqueous phase was extracted with a further portion dichloromethane. The combined dichloromethane extracts were washed with water, dried over magnesium sulfate, filtered and evaporated under vacuum to give an orange oil. The crude product was purified by flash column chromatography eluting with dichloromethane-methanol (9:1). The fractions containing the product were combined and evaporated to give an orange oil (2.76 g).

reactant | (S)-acetic acid 3-[4-(2-tert-butyl-6-cyclobutyl-pyrimidin-4-yl)-piperazin-1-yl]-2-methyl-propyl ester | 14.1 mmol, 5.64 g | C(C)(C)(C)C1=NC(=CC(=N1)N1CCN(CC1)C[C@@H](COC(C)=O)C)C1CCC1 | C22H36N4O2
reactant | sodium hydroxide | 2.83 g | [OH-].[Na+]
reactant | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | ethanol | 26.6 ml | C(C)O | C2H6O
solvent | water | 6 ml | O | H2O
solvent | water | 50 ml | O | H2O
product | (S)-3-[4-(2-tert-Butyl-6-cyclobutyl-pyrimidin-4-yl)piperazin-1-yl]-2-methyl-propan-1-ol | 2.76 g | C(C)(C)(C)C1=NC(=CC(=N1)N1CCN(CC1)C[C@@H](CO)C)C1CCC1 | C20H34N4O
